US05451596
To a mixture of trans-2-triphenylmethylaminocyclopentanol (4.76 g; 13.85 mmol), is added Nail (60%; 0.83 g; 20.78 mmol) in 100 ml THF and 20 ml DMF. This mixture is stirred for 1 hr. and then 4-(benzoxazol-2-yl)benzyl bromide (3.99 g; 13.85 mmol) is added followed by potassium iodide (pinch). The reaction mixture is stirred for 72 hrs., quenched with water, concentrated in vacuo and flash chromatographed using 9:1; hexane:EtOAc to obtain trans-2-triphenylmethylamino-[4-(benzoxazol-2-yl)benzyloxy]cyclopentane which is used directly in the next step.

reactant | trans-2-triphenylmethylaminocyclopentanol | 13.85 mmol, 4.76 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)N[C@H]1[C@@H](CCC1)O | C24H25NO
reactant | 4-(benzoxazol-2-yl)benzyl bromide | 13.85 mmol, 3.99 g | O1C(=NC2=C1C=CC=C2)C2=CC=C(CBr)C=C2 | C14H10BrNO
reactant | potassium iodide | [I-].[K+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | trans-2-triphenylmethylamino-[4-(benzoxazol-2-yl)benzyloxy]cyclopentane | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)N[C@H]1[C@@H](CCC1)OCC1=CC=C(C=C1)C=1OC2=C(N1)C=CC=C2 | C38H34N2O2
